US07135479B2
8-Methyl-2-[3-(5-methyl-1H-indol-3-ylmethyl)-azetidin-1-ylmethyl]-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
This compound was prepared as described for Example 10, using (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester (0.4 g, 0.9 mmol), 3-azetidin-3-ylmethyl-5-methyl-1H-indole (0.19 g, 0.9 mmol), to afford 0.15 g of the (S)-enantiomer of the title compound as a light brown oil. The hydrochloride salt was prepared in ethyl acetate and collected as a yellow solid, m.p. 150° C. (dec).

reactant | (2R)-4-bromobenzenesulfonic acid 8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester | 0.9 mmol, 0.4 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)COS(=O)(=O)C3=CC=C(C=C3)Br | C19H16BrNO5S
reactant | 3-azetidin-3-ylmethyl-5-methyl-1H-indole | 0.9 mmol, 0.19 g | N1CC(C1)CC1=CNC2=CC=C(C=C12)C | C13H16N2
product | 8-Methyl-2-[3-(5-methyl-1H-indol-3-ylmethyl)-azetidin-1-ylmethyl]-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | CC1=NC2=CC=C3C(=C2C=C1)OC(CO3)CN3CC(C3)CC3=CNC1=CC=C(C=C31)C | C26H27N3O2
